US06407086B2
3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic Acid-N-phenyl Amide
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N-phenyl amide (50 mg) is dissolved in 5 ml of ethanol, 0.2 ml of 6N hydrogen chloride is added and the mixture is stirred at room temperature overnight. After aqueous work-up and crystallization from methanol the title compound is obtained. (36 mg). H-NMR (CDCl3, 400 MHz): δ=7.53 (2H, d); 7.33 (2H, t); 7.18 (1H, s); 7.12 (1H, t); 5.36 (1H, s); 3.26 (1H, m). MS: Calculated: 475.7. Found: 475.4.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N-phenyl amide | 50 mg | C1(=CC=CC=C1)NC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C38H59NO2Si
reactant | hydrogen chloride | 6N, 0.2 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic Acid-N-phenyl Amide | C1(=CC=CC=C1)NC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O)(C)C)=O | C32H45NO2
